US06649633B2
A mixture of 336 mg (0.7 mmol.) 4′-[[[2-[3-Cyano-phenoxy]-pyridine-3-carbonyl]-amino]-methyl]-3′-fluoro-biphenyl-3-carboxylic acid methyl ester and 0.8 mL (0.8 mmol.) 1.0 N LiOH in 20 mL tetrahydrofuran and 2 mL water was stirred at ambient temperature for 18 hours. The mixture was poured into water, acidified to pH 1 with 1N HCl, then extracted with ethyl acetate. The ethyl acetate extracts were combined, washed successively with water, brine then dried (MgSO4) and concentrated in vacuo to give a solid. Chromatography on Silica Gel eluting with methanol/dichloromethane (1:20) yielded a solid. Recrystallization from ethyl acetate/hexane afforded 280 mg 4′-[[[2-[3-cyano-phenoxy]-pyridine-3-carbonyl]-amino]-methyl]-3′-fluoro-biphenyl-3-carboxylic acid as a solid, mp 200-2° C.

reactant | 4′-[[[2-[3-Cyano-phenoxy]-pyridine-3-carbonyl]-amino]-methyl]-3′-fluoro-biphenyl-3-carboxylic acid methyl ester | 0.7 mmol, 336 mg | COC(=O)C=1C=C(C=CC1)C1=CC(=C(C=C1)CNC(=O)C=1C(=NC=CC1)OC1=CC(=CC=C1)C#N)F | C28H20FN3O4
reactant | LiOH | 0.8 mmol, 1.0 N, 0.8 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
reactant | methanol dichloromethane | CO.ClCCl
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 4′-[[[2-[3-cyano-phenoxy]-pyridine-3-carbonyl]-amino]-methyl]-3′-fluoro-biphenyl-3-carboxylic acid | 280 mg | C(#N)C=1C=C(OC2=NC=CC=C2C(=O)NCC2=C(C=C(C=C2)C2=CC(=CC=C2)C(=O)O)F)C=CC1 | C27H18FN3O4
